US09163012B2
(R)-3-(4-Cyano-2-oxo-2H-pyridin-1-yl)-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester
The title compounds were prepared from (S)-3-hydroxy-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester (ca. 1:1 mixture of cis- and trans-isomer) and 2-oxo-1,6-dihydro-pyridine-4-carbonitrile following a procedure analogous to that described in Example 77. The isomers were separated by HPLC on reversed phase (acetonitrile/water containing 1.36% trifluoroacetic acid).

reactant | (S)-3-hydroxy-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester | OC12CC3C(C(CC(C1)C3)C2)OC(=O)N2C[C@H](CC2)O | C15H23NO4
reactant | 2-oxo-1,6-dihydro-pyridine-4-carbonitrile | O=C1NCC=C(C1)C#N | C6H6N2O
product | (R)-3-(4-Cyano-2-oxo-2H-pyridin-1-yl)-pyrrolidine-1-carboxylic acid 5-hydroxy-adamantan-2-yl ester | Yield: 2% | OC12CC3C(C(CC(C1)C3)C2)OC(=O)N2C[C@@H](CC2)N2C(C=C(C=C2)C#N)=O | C21H25N3O4
